### PR TITLE
[Merged by Bors] - chore(Order/WithBot): add to_dual attributes (part 2)

### PR DESCRIPTION
**Pull request by vihdzp**
Some design considerations:

- The `≤` and `<` instances on `WithBot` and `WithTop` are were deliberately made def-eq. I've not changed this, which results in some awkward code before we develop the API to hide this.
- There was some major disparity in the `unbot` and `untop` API. I had to add a bunch of lemmas to amend it.
- I reordered a few theorems to avoid having to constantly open and close the `WithBot` namespace.

---

- [x] depends on: #32635

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/WithBot.lean [hunk 1]
```diff
@@ -674,130 +805,6 @@ theorem ofDual_map (f : αᵒᵈ → βᵒᵈ) (a : WithTop αᵒᵈ) :
...
-lemma le_iff_forall : x ≤ y ↔ ∀ b : α, y = ↑b → ∃ a : α, x = ↑a ∧ a ≤ b := by
-  cases x <;> cases y <;> simp [le_def]
-
-@[simp, norm_cast] lemma coe_le_coe : (a : WithTop α) ≤ b ↔ a ≤ b := by simp [le_def]
-
-lemma not_top_le_coe (a : α) : ¬ ⊤ ≤ (a : WithTop α) := by simp [le_def]
-
-instance orderTop : OrderTop (WithTop α) where le_top := by simp [le_def]
-
-instance orderBot [OrderBot α] : OrderBot (WithTop α) where bot_le x := by cases x <;> simp [le_def]
```
Comment (JovanGerb) [inline Mathlib/Order/WithBot.lean:701]: It looks like this `instance` did not get a dual :(

**Review by JovanGerb — APPROVED** [review]
Thanks! The changes all look good to me. The build failure made me inspect the modified `instance`s a bit more closely, and I think I identified which instance was deleted.

File: Mathlib/Order/WithBot.lean [hunk 2]
```diff
@@ -294,17 +294,15 @@ theorem withBotCongr_trans (e₁ : α ≃ β) (e₂ : β ≃ γ) :
 
 end Equiv
 
-namespace WithBot
-
-variable {a b : α}
+-- TODO: do we really need to preserve the def-eq between `LE` on `WithBot` and `WithTop`
+-- moving forward?
```
Comment (bryangingechen) [inline Mathlib/Order/WithBot.lean]: Probably worth linking to further discussion on this - maybe somewhere in https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Order.20dual.20tactic or some related PR?

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors d+
